US07763639B2
3-(1-ETHYL-1,2,3,6-TETRAHYDROPYRIDIN-4-YL)-2-FLUOROBENZAMIDE
Preparation according to preparation 6: 2-fluoro-3-pyridin-4-ylbenzamide (0.94 g, 4.34 mmol), 1-iodoethane (3 ml), ethanol (40 ml), sodium borohydride (1.25 g, 34.8 mmol). Yield: 0.75 g. MS m/z (rel. intensity, 70 eV) 248 (M+, bp), 247 (37), 233 (99), 146 (22), 110 (41).

reactant | 2-fluoro-3-pyridin-4-ylbenzamide | 4.34 mmol, 0.94 g | FC1=C(C(=O)N)C=CC=C1C1=CC=NC=C1 | C12H9FN2O
reactant | 1-iodoethane | 3 ml | ICC | C2H5I
reactant | sodium borohydride | 34.8 mmol, 1.25 g | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(1-ETHYL-1,2,3,6-TETRAHYDROPYRIDIN-4-YL)-2-FLUOROBENZAMIDE | C(C)N1CCC(=CC1)C=1C(=C(C(=O)N)C=CC1)F | C14H17FN2O
